Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zocor / Penicillins
 
Attending: ___
 
Chief Complaint:
Palpitations and lightheadedness. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with h/o prostate CA who presents with 
lightheadedness and hypotension.  
.  
Patient reports feeling in good health until this evening when, 
approximately ___ hrs into a doubles tennis game, he began 
feeling more exhausted than he normally would be at that point, 
and also lightheaded. He was sweaty from the match, but not any 
more than he would be with that workout. No CP, nausea, or SOB. 
While driving home, he continued to feel lightheaded and also 
experienced palpitations -- he felt that his heart was racing, 
not able to say if irregular. At home, he checked his blood 
pressure and it was in the 80's. Prior BP in clinic 124/82 in 
___. At this point he sought eval in the ER.  
.  
In the ED, initial VS were: 97.6 78 97/62 14 99% on RA. Labs 
notable for Creatinine of 1.8 (baseline 1.1), tropn 0.03 EKG 
showed diffuse TWI with lateral STD. CXR normal. FAST-aorta is 
normal. Given ASA 325mg in ER, 5L saline. Vitals prior ot 
transfer HR 58 99/66 20 100%.  
.  
On the floor, patient has no complaints. He says that he was 
under increased stress at work today. No recent illness, fevers, 
chills, or sweats. He reports eating and drinking, denies med 
changes, nausea/vomiting, diarrhea, bleeding or any kind 
including GI bleeding. He endorses a little abdominal bloating 
after eating dinner, but no cramping/pain per se. No back pain, 
leg pain, or history of DVT. Traveled to ___ 1 month 
previously no long trips since then. He uses ibuprofen 400mg x2 
today, occasionally takes it for his LBP.  
.  
ROS is otherwise negative  

 
Past Medical History:
Prostate CA s/p prostatectomy ___  
HTN  
Hyperlipidemia  
Adenoid hypertrophy s/p XRT as a child  
Nasal polyps  
Lumbar disc disease with hyperesthesia R foot  

 
Social History:
___
Family History:
father with CABG in his ___. grandfather with unknown heart 
disease.
 
Physical Exam:
Vitals 95.8 62 100/66 22 97% on RA  
orthostatics supine 96/60 R, 102/64 L, P64; standing 92/65, P60  

He denies feeling dizzy on standing. Pulse is 4mm Hg.  
General Well appearing, no distress  
HEENT Anicteric, conjunctiva pink, MMM  
Neck JVD to ~8cm, no Kussmaul's, carotids 2+ no bruit  
Pulm Lungs with bibasilar rales  
CV Regular S1 S2 no m/r/g  
Abd Soft nontender +bowel sounds no mass or organomegaly  
Extrem Warm no edema 2+ pulses bilaterally ___ and ___. legs 
symmetric  
Neuro Alert awake, ambulatory, nonfocal  

 
Pertinent Results:
Laboratory Findings:
___ 11:20PM BLOOD WBC-8.9# RBC-4.85 Hgb-14.8 Hct-44.5 
MCV-92 MCH-30.4 MCHC-33.2 RDW-14.1 Plt ___
___ 11:20PM BLOOD Neuts-76.4* Lymphs-13.7* Monos-7.9 
Eos-1.5 Baso-0.4
___ 11:20PM BLOOD Glucose-93 UreaN-33* Creat-1.8* Na-143 
K-3.8 Cl-100 HCO3-32 AnGap-15
___ 07:31AM BLOOD WBC-6.6 RBC-3.89* Hgb-12.1* Hct-35.1* 
MCV-90 MCH-31.1 MCHC-34.5 RDW-14.3 Plt ___
___ 07:31AM BLOOD Glucose-99 UreaN-25* Creat-1.3* Na-141 
K-3.8 Cl-108 HCO3-27 AnGap-10
___ 07:31AM BLOOD ALT-20 AST-30 LD(LDH)-151 CK(CPK)-317 
AlkPhos-53 TotBili-0.4
___ 03:10AM BLOOD Lipase-61*
___ 07:31AM BLOOD TSH-1.6
___ 07:31AM BLOOD Cortsol-9.9
___ 07:31AM BLOOD calTIBC-268 ___ Ferritn-133 TRF-206
___ 07:31AM BLOOD Albumin-3.7 Mg-1.9 Iron-50
___ 11:20PM BLOOD CK-MB-7
___ 11:20PM BLOOD cTropnT-0.03*
___ 03:10AM BLOOD CK-MB-8 cTropnT-0.06*
___ 07:31AM BLOOD CK-MB-8 cTropnT-0.06*
___ 12:40AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:40AM URINE Blood-NEG Nitrite-NEG Protein-25 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 12:40AM URINE ___ Bacteri-FEW Yeast-NONE 
___ 12:40AM URINE ___ 12:40AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 12:40AM URINE Hours-RANDOM Creat-155 Na-85
.
IMAGING/STUDIES
.
CXR ___: Lungs clear. There is no pulmonary 
edema,pneumothorax or pleural effusion. Heart size is normal. 
IMPRESSION: Normal radiograph. 
.
TTE ___: The left atrium is elongated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function (LVEF>55%). The estimated 
cardiac index is normal (>=2.5L/min/m2). Right ventricular 
chamber size and free wall motion are normal. The aortic arch is 
mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is high normal. There is no pericardial effusion.
IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology.
 
Brief Hospital Course:
This ___ with h/o HTN and prostate CA presents with 1d of 
lightheadedness, and found to be hypotensive with acute renal 
failure.
.
# Hypotension: Patient was found to be significantly below his 
baseline blood pressure on presentation. He received 
approximately 5L of NS in the ED and was admitted for monitoring 
overnight. He did not endorse any symptoms to suggest why he 
might be volume depleted; no recent medication changes, nausea, 
vomiting, diarrhea or bleeding.  The differential for his 
hypotension included vasovagal reaction, hypovolemia, PE, 
tamponade and cardiac ischemia.  He did not have any hypoxia or 
tachycardia, making suspicion for PE quite low.  Additionally, 
he did not have any evidence of tamponade based on normal pulsus 
and clear heart sounds. TTE showed no evidence of pump failure 
or effusion.  Although Troponin T was detectable, this was in 
the setting of acute renal failure.  Arrhythmia was also 
considered on the differential; he was monitored on telemetry 
overnight with no evidence of any abnormal heart rhythm. Thyroid 
function and cortisol were also within normal limits.  The 
patient's hypotension resolved after IV fluid, but he continued 
to have an SBP in the low 100s, which is significantly below his 
baseline.  He was instructed to hold his home antihypertensive 
regimen, as well as vasodilating medications such as sildenafil 
until seeing his PCP ___ ___ weeks.  
.
# Acute kidney injury: Most likely prerenal given his FeNa of 
0.7%. Likely secondary to significant volume depletion, as 
improved with IV fluid rehydration. 
.
# Anemia: The patient's Hct was 44 at presentation, which 
decreased to 35 after 5L of NS.  The patient was guaiac negative 
with no indication of bleeding, and it was felt that his Hct 
drop was most likely dilutional in nature.
.
# Hyperlipidemia: Patient was continued on home dose statin.
 
Medications on Admission:
Atorvastatin 20mg daily
Valsartan 320mg daily
HCTZ 25mg daily
ASA 81mg daily
Ibuprofen prn
Viagra prn 
 
Discharge Medications:
1. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Hypotension
Normocytic anemia

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the hospital for dizziness and low blood 
pressure.  You were treated with IV fluids, and your symptoms 
and low blood pressure improved.  You also had some slight renal 
failure, which we think is related to dehydration (and improved 
with IV fluids).  Finally, you were found to have anemia, and we 
recommend that you undergo colonoscopy within the next ___ 
months. 

We made the following changes to your home medications:
- Please STOP valsartan, HCTZ and viagra for now (these 
medications may lower your blood pressure).  Please check your 
blood pressure within the next week, and if systolic pressure > 
140, you may restart valsartan and HCTZ.  
- Please make an appointment to see your pcp within the next ___ 
weeks, and have him check your kidney function to be sure that 
this abnormality resolves.
 
Followup Instructions:
___